Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: PSYCHIATRY
 
Allergies: 
olanzapine
 
Attending: ___.
 
Chief Complaint:
"paranoia, recent medication changes, family
problems, relationship problems and I'm afraid of urination... I
was restrained last time with a catheter." 

 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
___ y/o single white male, student at
___, complex PPH notable for anxiety and
psychosis, presenting brought in by his RA with change in mental
status, with insomnia and confused thinking as most prominent
symptoms. 

Pt was recently admitted here and followed by C/L service. He 
was
found to be grossly psychotic with concern for mania on initial
eval. He was treated with Zyprexa and this apparently had good
effect as his symptoms markedly improved within ___ days. He was
initially placed on ___ and ultimately discharged home.
However, it appears he had akathisia vs. dystonic reaction to 
the
Zyprexa and this was discontinued in the hospital prior to his
discharge. Apparently pt was discharged home on only his prior
home meds Paxil and klonopin without any antipsychotic. 

Pt is unable to give me clear history of how he has been doing
since then, but does say he has not slept in the past 3 days. He
also describes several recent stressors including his family
being more involved and perhaps overly involved in his life. 
Says
his sister recently told him she was raped by their father when
they were younger and there is much conflict between he and his
father about this. Also recently was rejected for a date with
someone he met online. Also describes arguing with his brother,
___, saying ___ is trying to tell him what to do. Describes
himself as "paranoid" and worried that people in his dorm are
talking about him. Last night overheard people in the common 
room
talking and came out to tell them to be quiet. ___ got involved
and said this was lucky as the other students were very 
irritated
with him. ___ then says the pt called him this morning and said 
he
had a "medical emergency."  pt then told ___ that he had not been
sleeping for 3 days and disclosed family/relationship problems 
to
him. ___ said the pt was behaving oddly, was "aggravated, tense
and suspicious," and so together they called pt's therapist as 
pt
was initially very reluctant to come to the ED. Per the RA, pt's
tone dramatically changed to even more tense and he began 
yelling
over the phone at his therapist. RA was with pt most of the
morning and even in the ED with him until I saw the pt. He says
throughout that time, pt has seemed "not in control of his
thoughts."  Says he has been "blurry and confused" and this is
not his baseline. However, the RA also says there was some time
before I saw pt where pt seemed much calmer and more like
himself. 

Pt is found by me to be quite odd and mostly confused. He has
great difficulty putting together a sentence. He stutters and
clenches his eyes tight as if intensely concentrating or in pain
and then what comes out is not a clear answer to the question. 
He
is unable to provide clear psychiatric ROS over the past week. 
He
told the ED resident that earlier this morning he had written an
email to his family saying he was going to kill himself, but did
not send the email. To me he says he is not suicidal, but does
not discuss the email. He has a difficult time even describing
his mood or what his thoughts/worries are about. He denies
specific "racing" thoughts but does admit that it is hard for 
him
to organize his thoughts. When asked re voices, says he does 
hear
his own voice often "weighing pros and cons of things" but does
not hear the voice of another. 

 
Past Medical History:
PSYCHIATRIC HISTORY:
- Dx: panic disorder, OCD, GAD, psychosis NOS, r/o bipolar d/o,
r/o schizophrenia
- ___: once here at ___-4, see discharge summary dated
___ ___. Recently (___) hospitalized medically
here for seizure d/o in ED and psych eval but discharged home. 
- Treaters: Therapist is psychologist, Dr. ___ at
___ (cell) or ___ (office). Sees a 
psychiatrist
at ___, Dr. ___. Phone for ___ is
___ 
- Med Trials have included: Celexa, Paxil, Zyprexa and Seroquel
(has reportedly improved on those medications with decreased
thought disorder and increased functional level: less
obsessional, making classes more, more social, maintaining ADLs)
- SA/SIB: No reports of SA, but occasional acute suicidality 
when
feeling overwhelmed. + SI this morning per his report though
denies now. Denies SIB. 
- HI/aggression: denies 

PAST MEDICAL HISTORY: denies. Questionable generalized tonic
clonic seizure of unknown etiology in ___. Notably did not 
have
routine medical care or vaccinations as a child due to ___ faith of his mother. 

ALLERGIES: Zyprexa (akathesia, tongue dystonia)
 
Social History:
SUBSTANCE ABUSE HISTORY: Denies recent alcohol or drug abuse.
Rare social alcohol. Has tried MJ once. Says he smokes ~4
cigarettes daily. 

SOCIAL HISTORY: Patient born in ___, then lived in ___, but moved 
to ___, where his parents currently live, at age ___ and was 
homeschooled
there by his mother as she had recently converted to ___ 
___ faith. He is the youngest of 5 children born to his 
mother. The oldest is a half-sister, ___ y/o, by same mother but 
different father. Mother then remarried and had 4 more children: 
___, ___, ___, ___, ___, ___ and ___ is 
therefore sig younger than his siblings and, per his own report 
and ___
report, grew up much differently than his siblings. There was
apparently much physical abuse in the home that ___ was spared
(however he witnessed domestive violence between his parents).
Also concern for sexual abuse of his sister by his father, which
is a legitimate concern, per ___. In terms of religion,
mother was of ___ faith and there father was ___. 
___
reports the older children grew up with "no religion at all" but
that mother converted to ___ when other siblings
were ___ but ___ was still young. ___ has many worries
that this religion was "pushed" on ___ and that it was very
confusing for him. 

___ is now with one more semester to go (is one semester 
behind as he took time off freshman year for mental illness) at 
___ and is per collateral, a fantastic ___. His brother 
___ lives in ___, is married and has a ___ y/o baby. 
___ and ___ are also ___ and ___ and 
___ recently was accepted at ___, which pt apparently had 
a very difficult time with as he always wanted to go there. 
___ is estranged from their parents, per ___, and has 
recently claimed that their father raped her, which is a 
legitimate concern, per ___, and which has been a further 
huge stressor for the entire family. A final stressor is the 
parents divorce last ___. 

 
Family History:
Mother and 3 siblings with sig h/o anxiety disorders. One 
brother has a seizure disorder. Brother, ___ reports 
diagnosis of PTSD and is on low dose of Zoloft. He reports that 
their brother ___ is also on Zoloft. ___ reports that he 
and ___ had poor response to Paxil. Sister, ___, with 
likely PTSD as well. 

 
Physical Exam:
MENTAL STATUS EXAM
- APPEARANCE &  BEHAVIOR: slightly overweight young man, good
grooming/hygeine, wearing gown. Behavior is odd with frequent
stutters, childlike voice, movements between lying down to sleep
and sitting up to talk, cannot seem to decide if he is tired or
not, often clenches his eyes tightly and takes sig time to 
answer
questions as thought searching for a perfect response. Suddenly
tearful at times.
- SPEECH: childlike tone, slowed, halting sentences, frequent
stutter, occasionally loud at times esp when having difficulty
expressing himself
- MOOD: "unstable"
- AFFECT: odd, labile, childlike
- THOUGHT FORM: mostly linear, ? thought blocking at times,
mildly circumstantial at times
- THOUGHT CONTENT:  discusses his frustration being unable to
communicate, and not being sure if he wants his family more or
less in his life. See HPI for SI (denies now). + paranoia per
self-report, denies AH but could be responding to internal
stimuli at times (odd laugh/smile, long pauses)
- INSIGHT AND JUDGMENT: poor/poor
COGNITIVE ASSESSMENT:
          SENSORIUM: alert
          ORIENTATION: x3
          ATTENTION: intact; able to spell WORLD backwards
          MEMORY: ___ registration; ___ after 5 minutes
          CALCULATIONS: $1.75 = 7 quarters
          FUND OF KNOWLEDGE: able to name current and past
presidents, current events, likely avg intelligence
          PROVERB INTERPRETATION: grass is greener -> pt
initially cracked up laughing when I asked him this and had a
hard time explaining why, then said abruptly "you always want
what you don't have"
Don't judge a book by it's cover -> "just read it!"
          SIMILARITIES/ANALOGIES: apple/orange -> "fruit"

PHYSICAL EXAMINATION:
VS:  BP: 132/67  HR: 70  temp: 97.6   resp: 18 O2 sat: 97  
 General: Well-nourished, preoccupied, dysthymic, irritable and 
at
times angry young man in no apparent physical distress.
HEENT: Normocephalic. PERRL, EOMI. ___ clear, Oropharynx clear.
Neck: Supple, trachea midline.  No adenopathy.
Back: No significant deformity, no focal tenderness.
Lungs: Clear to auscultation; no crackles or wheezes.
CV: Regular rate and rhythm; no murmurs/rubs/gallops; 2+ pedal
pulses
Abdomen: Soft, nontender, nondistended; no masses or
organomegaly.
Extremities: No clubbing, cyanosis, or edema.
Skin: Warm and dry, no rash or significant lesions.
Neurological:
  *Cranial Nerves-
       I: Not tested
       II: Pupils equally round and reactive to light
bilaterally. Visual fields are full to confrontation.
      III, IV, VI: Extraocular movements intact bilaterally
without
nystagmus.
      V, VII: Facial strength and sensation intact and 
symmetric.
      VIII: Hearing intact to voice.
      IX, X: Palatal elevation symmetrical.
      XI: Sternocleidomastoid and trapezius normal bilaterally.
      XII: Tongue midline without fasciculations.
  *Motor- Normal bulk and tone bilaterally. No abnormal
movements, tremors. Strength full power ___ throughout. 
  *Sensation- Intact to light touch bilaterally.
  *Reflexes- Symmetrically brisk

 
Pertinent Results:
___: CMP wnl, CBC wnl, UA wnl, Utox neg, Stox neg, TSH 4.9, 
 
Brief Hospital Course:
1. Legal - The patient was admitted on a ___ from the ED 
and signed a CV on admission. 

2. Medical - There were no acute medical issues during his 
hospitalization. TSH was noted to be mildly elevated upon 
admission. There was a question of urinary retention at times, 
but each time resolved spontaneously and seemed most likely due 
to anxiety. At time of discharge, no longer had urinary 
concerns. His T3/T4 were WNL. 

3. Psychiatric - Upon admission, the patient's diagnosis was 
initally unclear as his behavior and mental status were odd and 
bizarre at times and inconsistent. He was very difficult to 
engage in conversation, at times limited either by questionable 
thought disorganization or by irritability/anger. He would 
frequently growl, grunt or make barking noises that were 
frightening to other patients and staff at times. Thus, he was 
initally maintained on 1:1 sitter in the quiet room, as he would 
not listen to staff redirection and required "someone in 
uniform" to keep his behavior contained. He would also 
frequently stand and walk with astasia abasia and do odd 
movements like covering his mouth as if to vomit without 
complaining of nausea or actually vomit. In the beginning he had 
marked difficulty communicating, as he would stutter and say a 
few words then shake his head in frustration and try again, but 
could never answer questions directly. At times, he would speak 
in full sentences and play the piano with great skill while 
other times was seen to roll around the floor of the quiet room. 
 He would occasionally make statements consistent with paranoid 
psychosis, such as "I know my mother and brother are patients in 
the hospital" and asking if there were cameras in the quiet 
room. Ultimatley with the constellation of symptoms of paranoia, 
auditory hallucinations, bizzare and disorganzied behavior, very 
poor sleep, Psychomotor agitation, racing thoughts, and the 
sudden onset of anger, irritability, low frustration tolerance, 
impulsivity, distractibility, poor concentration, and 
hypervigilence (from his baseline of being anxious, depressed, 
reserved), but a history of ___ distinct episodes of behavioral 
change, it was felt that his most likely diagnosis bipolar 
disorder, current episode manic with psychotic features. 

    In terms of psychopharmacology management, his home Paxil 
medication was tapered off given concern for mania and family 
concern that it had adverse effects on him. Benzos were also 
discontinued given concern for possible disinhibition 
contributing to his childlike/regressed manner. Due to history 
of dystonia on Zyprexa and question of akathesia on Abilify, he 
was started on Seroquel and then ultimately Seroquel XR, the 
dosage was titrated up to 800 mg po qhs with good effect. As it 
was titrated up, the patient showed significant improvement in 
clarity of thinking and speech, feel less overwhelmed, and have 
more relaxed and appropriate behavior, his psychotic symptoms 
resolved, he slept well and he and his family felt his symptoms 
resolved by time of discharge. He at no point was suicidal or 
homicidal. At time of discharge he was future oriented and 
looking forward to his summer. The patient was provided with 
education about the importance of close psychiatric follow up 
and continuing to take his medications when he leaves the 
hospital. The risk of sedation and metabolic side effects were 
explained and he understood this. At time of dischagre he was 
return with his parents to his ___ of ___ 
for additional support. Ultimatley he will be returning to 
___ to continue his studies. 

Over the course of admission psychological testing was completed 
as it had been during a prior hospitalization ___ years ago. 
Testing revealed prominent features of anxiety, obsessive, and 
dependent traits. At his baseline, the patient struggles with 
this chronically and will continue to work with his therapist in 
regards to this. He has a feeling that his history of home 
schooling and social isolation has impacted his ability to 
relate to his peers at school. Over the course of his admission 
the question of being on the Asperger's specturm was raised, but 
it was felt that this could not be adequately evaluated in the 
context of his acute mania. His mother reports that he never had 
developmental delay, never was evaluated by physicians until he 
began college. 

4. Social/Milieu: at time of dischagre patient was attending 
groups and was appropriatley participaing. 

5. Family work: over the course of his admission his care was 
coordinated with his family members and psychoeducation was 
provided. 
 
 
Medications on Admission:
1. Paxil 30mg daily
2. Klonopin 0.5mg daily

 
Discharge Medications:
1. Seroquel XR 400 mg Tablet Extended Release 24 hr Sig: Two (2) 
Tablet Extended Release 24 hr PO at bedtime.
Disp:*60 Tablet Extended Release 24 hr(s)* Refills:*0*

With patients current insurance he has a $269 copay for this 
medication. This was discussed with the patient and his family. 
They will consider alternate insurance in the future. 
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
I. Psychosis NOS - most likely bipolar disorder, manic episode
with psychotic features; Hx of Social Anxiety, OCD, and panic
disorder.
II. Dependent traits, R/o Asperger's
III. None
IV. school stress, family stress, relationship stress
V. 40-50
 
Discharge Condition:
Ambulating Independently. Denies SI/HI. 
Mental Status Exam: 
APPEARANCE: Wearing jeans and a hooded sweatshirt, unshaven
today, appears somewhat fatigued 
- BEHAVIOR: Cooperative, good eye-contact. Continues to enjoy
playing piano.
- SPEECH: Speaking in full sentences without stuttering. Tone,
prosody and volume normal. 
- MOOD: 'Frustrated' that he is still here.
- AFFECT: Congruent with mood. Able to smile and chuckle to
himself when he made a joke, displaying a full range of affect. 
- THOUGHT FORM: Linear, no deficits
- THOUGHT CONTENT: Remains focused on being discharged soon.
Signed a 3 day today. 
- PERCEPTIONS: Did not elicit any auditory or visual
hallucinations
- INSIGHT AND JUDGMENT: Continues to acknowledge he was quite
sick on admission and that he needed to be hospitalized. He 
seems
incredulous re: his need for continued hospitalization.

 
Discharge Instructions:
- Take all medications as prescribed
- Follow-up with all outpatient appointments
- Call your doctor or go to nearest emergency room if you are 
feeling unwell or unsafe
 

 
Followup Instructions:
___